US05641431
50 g of boron trifluoride ether complex was dripped into a mixed solution of 100 g of diallylphenyl-n-pentylsilane, 9.6 g of sodium borohydride and 500 g of tetrahydrofuran. After the reaction mixture was stirred for 4 hours at room temperature, a 300 ml aqueous solution of 20% sodium hydroxide and then a 100 ml aqueous solution of 30% hydrogen peroxide were dripped into the mixture. After an overnight stirring were dripped into the mixture. After an overnight stirring at room temperature, extraction was conducted using ethyl acetate. Following conventional washing and concentration procedures, 120 g of di(3-hydroxypropyl)phenyl-n-pentylsilane was obtained. IR (liquid film) νmax: 3030 (s, br), 2920 (s), 2870 (s), 1420 (m), 1105 (s), 1050 (s), 1005 (s) and 850 (m) cm-1

reactant | diallylphenyl-n-pentylsilane | 100 g | C(C=C)[Si](CCCCC)(C1=CC=CC=C1)CC=C | C17H26Si
reactant | sodium borohydride | 9.6 g | [BH4-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | 500 g | O1CCCC1 | C4H8O
product | di(3-hydroxypropyl)phenyl-n-pentylsilane | 120 g | OCCC[Si](CCCCC)(C1=CC=CC=C1)CCCO | C17H30O2Si
